US04598156
8.3 g of N-hydroxybenzanilide are heated with 125 ml of vinyl acetate and 250 mg of Li2PdCl4 for four and a half hours at 60° C. The reaction mixture is washed with brine, dried over magnesium sulfate, and concentrated by evaporation. The solid residue is shaken with diethyl ether, in the process of which a small amount of crystalline benzanilide precipitates. The organic phase is concentrated by evaporation, and chromatographed through silica gel (toluene/diethyl ether 1:1). As the first fraction are obtained 6.2 g of N-benzoylindole, m.p. 54°-55° C.; IR spectrum (CHCl3): 1710 (CO): NMR spectrum (100 MHz, CDCl3) 6.52 (d, J=4, CH); 7.1-7.7 (m, 9H); 8.38 (m, 1H) ppm.

reactant | N-hydroxybenzanilide | 8.3 g | ON(C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C13H11NO2
reactant | vinyl acetate | 125 ml | C(C)(=O)OC=C | C4H6O2
product | N-benzoylindole | 6.2 g | C(C1=CC=CC=C1)(=O)N1C=CC2=CC=CC=C12 | C15H11NO
